US07691860B2
3) Preparation of 2-(3-isopropylsulfonyl-cis-3,7-diazabicyclo[3.3.0]oct-7-yl)-5-phenylbenzimidazole
2-Propanesulfonyl chloride and triethylamine were added to the THF suspension (5 mL) containing 2-(cis-3,7-diazabicyclo[3.3.0]oct-3-yl)-5-phenylbenzimidazole hydrochloride (26 mg) at room temperature, followed by stirring for 15 min. The reaction mixture was concentrated under reduced pressure, and the residue was separated and purified on a collective thin-layer chromatograph (chloroform:methanol=10:1) to give the title compound (12 mg).

reactant | 2-Propanesulfonyl chloride | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-(cis-3,7-diazabicyclo[3.3.0]oct-3-yl)-5-phenylbenzimidazole hydrochloride | 26 mg | Cl.[C@@H]12CN(C[C@H]2CNC1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(3-isopropylsulfonyl-cis-3,7-diazabicyclo[3.3.0]oct-7-yl)-5-phenylbenzimidazole | 12 mg | C(C)(C)S(=O)(=O)N1C[C@@H]2CN(C[C@@H]2C1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | C22H26N4O2S
